US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-V, 30 mg, 0.070 mmol) was dissolved in DMF (1 mL) prior to the addition of 4-methylmorpholine (0.061 mL, 0.556 mmol), methanamine-HCl (4.70 mg, 0.070 mmol), and HATU (39.7 mg, 0.104 mmol). The reaction mixture was stirred overnight and then purified by preparative HPLC (PHENOMENEX® Luna 5u C18 21.2×100 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 10 min, 20 mL/min, 220 nM, product retention time=11.7 min) to give (R/S)-2-hydroxy-N-methyl-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide (7 mg, 0.014 mmol, 20.3% yield): LCMS=445.1 [M+H]+); 1H NMR (400 MHz, methanol-d4) δ ppm 8.17 (2 H, d, J=7.92 Hz), 7.65-7.78(4 H, m), 7.49-7.66 (3 H, m), 5.12 (1 H, s), 2.79(3 H, s); HPLC Peak RT=8.3 min (Analytical Method A).

reactant | (R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.070 mmol, 30 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | 4-methylmorpholine | 0.556 mmol, 0.061 mL | CN1CCOCC1 | C5H11NO
reactant | methanamine-HCl | 0.070 mmol, 4.70 mg | Cl.CN
reactant | HATU | 0.104 mmol, 39.7 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-2-hydroxy-N-methyl-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide | 0.014 mmol, 7 mg, 20.3% yield | OC(C(=O)NC)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C21H15F3N4O4
